US08802728B2
Add H2O (10 mg, 0.54 mmol) and TMSCl (35 mg, 0.33 mmol) to a solution of 5-((dimethylamino)methyl)-4-(3-hydroxyphenyl)octahydro-1H-inden-4-ol (78 mg, 0.27 mmol) in 2-butanone (10 mL). Then stir the mixture at room temperature for 12 hours. Evaporate the mixture under vacuum to give 5-((dimethylamino)methyl)-4-(3-hydroxyphenyl)octahydro-1H-inden-4-ol hydrochloride as a mixture of 4 diastereoisomers (91 mg, Yield: 100%).

reactant | H2O | 0.54 mmol, 10 mg | O | H2O
reactant | TMSCl | 0.33 mmol, 35 mg | C[Si](C)(C)Cl | C3H9ClSi
reactant | 5-((dimethylamino)methyl)-4-(3-hydroxyphenyl)octahydro-1H-inden-4-ol | 0.27 mmol, 78 mg | CN(C)CC1C(C2CCCC2CC1)(O)C1=CC(=CC=C1)O | C18H27NO2
solvent | 2-butanone | 10 mL | CC(CC)=O | C4H8O
product | 5-((dimethylamino)methyl)-4-(3-hydroxyphenyl)octahydro-1H-inden-4-ol hydrochloride | Yield: 100% | Cl.CN(C)CC1C(C2CCCC2CC1)(O)C1=CC(=CC=C1)O | InChI=1S/C18H27NO2.ClH/c1-19(2)12-15-10-9-13-5-3-8-17(13)18(15,21)14-6-4-7-16(20)11-14;/h4,6-7,11,13,15,17,20-21H,3,5,8-10,12H2,1-2H3;1H
